US07319124B2
Synthesis of 1,4-bis(diethylaminodisulphanyl)benzene
25.0 ml (190 mmol) of diethylamine are used as initial charge in 150 ml of 1,2-dichloroethane in an inertized three-necked flask with dropping funnel, reflux condenser with hose coupling at its upper end, a tap with hose coupling and a Teflon stirrer bar, in a countercurrent of argon. 10.6 g (38.6 mmol) of 1,4-bis(chlorodisulphanyl)benzene in 50 ml of 1,2-dichloroethane are then slowly added dropwise, with stirring. The reaction mixture is stirred at room temperature for 4 hours. The resultant salt is filtered off, and the organic phase is washed three times with water and dried over sodium sulphate. After removal of the solvent on a rotary evaporator and drying in the vacuum generated by a rotary-vane pump, 1,4-bis(diethylaminodisulphanyl)benzene precipitates in the form of a yellow oil. The crude yield is 11.9 g (89%). Elemental analysis was carried out on the crude product.

reactant | diethylamine | 190 mmol, 25.0 ml | C(C)NCC | C4H11N
reactant | 1,4-bis(chlorodisulphanyl)benzene | 38.6 mmol, 10.6 g | ClSSC1=CC=C(C=C1)SSCl | C6H4Cl2S4
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1,4-bis(diethylaminodisulphanyl)benzene | C(C)N(CC)SSC1=CC=C(C=C1)SSN(CC)CC | C14H24N2S4
